US07732618B2
b.) {5-[(2-Trifluoromethyl-benzyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid.
{5-[(2-Trifluoromethyl-benzyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ7.88 (d, 1H), 7.72 (m, 2H), 7.62 (m, 2H), 7.44 (m, 3H), 7.32 (d, 1H), 7.23 (d, 1H), 6.86 (dd, 1H), 5.03 (s, 2H), 4.95 (s, 2H), 2.67 (t, 2H), 1.72 (m, 2H), 0.96 (t, 3H). MS calculated for C26H23F4N3O4S—H: 548, observed: 548.

reactant | {5-[(2-Trifluoromethyl-benzyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(S(=O)(=O)C2=CC=C(C=C2)F)CC2=C(C=CC=C2)C(F)(F)F)CCC)=O | C30H31F4N3O4S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {5-[(2-Trifluoromethyl-benzyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid | FC(C1=C(CN(C2=CC3=C(N(C(=N3)CCC)CC(=O)O)C=C2)S(=O)(=O)C2=CC=C(C=C2)F)C=CC=C1)(F)F | C26H23F4N3O4S
